US07241791B2
Step 1: 1-cyclopentyl-7-fluoro--3-(4-methoxyphenyl)-1H-indazole
Prepared according to Method D step B from 7-fluoro-3-(4-methoxyphenyl)-1H-indazole (0.94 g, 3.8 mmol), sodium hydride (60% in oil, 0.148 g, 3.7 mmol) and cyclopentyl-bromide (0.43 mL, 4.0 mmol) to give the title compound (0.80 g) as a white solid,

reactant | 7-fluoro-3-(4-methoxyphenyl)-1H-indazole | 3.8 mmol, 0.94 g | FC=1C=CC=C2C(=NNC12)C1=CC=C(C=C1)OC | C14H11FN2O
reactant | sodium hydride | 3.7 mmol, 0.148 g | [H-].[Na+]
reactant | cyclopentyl-bromide | 4.0 mmol, 0.43 mL | C1(CCCC1)Br | C5H9Br
product | 1-cyclopentyl-7-fluoro--3-(4-methoxyphenyl)-1H-indazole | 0.80 g | C1(CCCC1)N1N=C(C2=CC=CC(=C12)F)C1=CC=C(C=C1)OC | C19H19FN2O
